US07419936B2
N-Allyl-4-oxo-4-[4′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]butanamide (XV-1)
Methyl-4-oxo-4-[4′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]butanoate (VIII-a-1) (18.2 g, 52 mmol) is treated with allylamine (41.6 g, 730 mmol) and ammonium chloride (1.8 g, 33 mmol) and heated under reflux for 6 h. For work-up, the mixture is poured into ice-cold aqueous HCl (2 M) and extracted with ethyl acetate. The combined organic phases are dried (Na2SO4) and concentrated. The crude product (17.7 g, content: 84.5%, HPLC, 100% method) is recrystallized from toluene.

reactant | Methyl-4-oxo-4-[4′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]butanoate | 52 mmol, 18.2 g | COC(CCC(C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F)=O)=O | C18H15F3O4
reactant | allylamine | 730 mmol, 41.6 g | C(C=C)N | C3H7N
reactant | ammonium chloride | 33 mmol, 1.8 g | [Cl-].[NH4+]
product | N-Allyl-4-oxo-4-[4′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]butanamide | C(C=C)NC(CCC(C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F)=O)=O | C20H18F3NO3
